US05140011
0.136 g (0.197 mmol) of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-amino-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride, 0.051 g (0.2 mmol) of benzyl [(methylthio)formimidoyl]carbamate and 0.07 ml (0.34 mmol) of Hunig base in 1 ml of absolute ethanol are stirred at 70° under argon for 3 hours. Thereafter, the reaction mixture is cooled, poured into 2N potassium carbonate solution and extracted with methylene chloride. The methylene chloride extracts are dried over magnesium sulphate and evaporated under reduced pressure. Chromatography of the residue obtained on 2 g of silica gel with a mixture of methylene chloride and isopropanol as the eluting agent yields 0.131 g of benzyl [N-[(3S,5S,6S)-6-[[N-[N-(t-butoxycarbonyl)-3-phenyl-L-alanyl]-L-histidyl]amino]-7-cyclohexyl-5-hydroxy-3-isopropylheptyl]amidino]carbamate as a colourless oil, MS: 831 (M+H)+.

reactant | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-amino-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride | 0.197 mmol, 0.136 g | Cl.NCC[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O)C(C)C
reactant | benzyl [(methylthio)formimidoyl]carbamate | 0.2 mmol, 0.051 g | CSC(=N)NC(OCC1=CC=CC=C1)=O | C10H12N2O2S
reactant | Hunig base | 0.34 mmol, 0.07 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium carbonate | 2N | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | benzyl [N-[(3S,5S,6S)-6-[[N-[N-(t-butoxycarbonyl)-3-phenyl-L-alanyl]-L-histidyl]amino]-7-cyclohexyl-5-hydroxy-3-isopropylheptyl]amidino]carbamate | 0.131 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@H](C[C@H](CCNC(=N)NC(OCC1=CC=CC=C1)=O)C(C)C)O)CC1CCCCC1 | C45H66N8O7
